### PR TITLE
Do syntax for propositional truncations, including application to strict real inequality

### PR DESCRIPTION
**Pull request by lowasser**
Attempting to generalize @VojtechStep's comment [here](https://github.com/UniMath/agda-unimath/pull/1273#issuecomment-2646004000).

I've also used `map-exists` where applicable, but I must admit that despite the use of modules and `where`, which the [code style](https://unimath.github.io/agda-unimath/CODINGSTYLE.html#modules-in-the-agda-unimath-library) argues against, this does seem to improve readability quite a bit.

### CODE REVIEW

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 1]
```diff
@@ -245,13 +210,15 @@ module _
...
-            tr (is-in-upper-cut-ℝ x) (inv (neg-neg-ℚ p)) p-in-ux))
+    map-exists
+      ( λ p →
+        is-in-subtype (upper-cut-neg-ℝ y) p ×
+        is-in-subtype (lower-cut-neg-ℝ x) p)
+      ( neg-ℚ)
+      ( λ p (x<p , p<y) →
+        tr (is-in-lower-cut-ℝ y) (inv (neg-neg-ℚ p)) p<y ,
+        tr (is-in-upper-cut-ℝ x) (inv (neg-neg-ℚ p)) x<p)
+    where open elim-exists-do (le-ℝ-Prop (neg-ℝ y) (neg-ℝ x))
```
Comment (VojtechStep) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:221]: The do notation isn't used

File: src/foundation/existential-quantification.lagda.md [hunk 2]
```diff
@@ -331,6 +331,24 @@ module _
     eq-distributive-product-exists-structure P
 ```
 
+## Existential quantification `do` syntax
+
+When eliminating a chain of existential quantifications, which may be
+interdependent, Agda's `do` syntax can eliminate many levels of nesting.
```
Comment (VojtechStep) [inline src/foundation/existential-quantification.lagda.md:337]: Could you link to Agda's documentation and include an example? I'm thinking a schematic of a nested proof and its alternative with `do` in a `text` code fence. We don't expect users to know Haskell

**Review by VojtechStep — COMMENTED** [review]
I'm for this change, but I'll wait for another maintainer to sign off on it. I'm biased because I'm a Haskeller, and I can't say if the new code is more readable to someone not familiar with do notation

**Comment by fredrik-bakke** [comment]
Having syntax modules like the one proposed here is an interesting prospect that has been mulling in the back of my mind for some time, and I would be interested in seeing how we can integrate it well with the agda-unimath design philosophy. (In particular, I almost see syntax modules as a necessity later on for the applications of wild higher category theory, but that's beside the point of the discussion here.) I believe there is a reason that this language feature is not in use currently in the library, but I have not taken part in that discussion before, @EgbertRijke will have to weigh in on that. I expect there may be an issue with how goals display when fancy features like this are used. Moreover, there is a question about readability for people who don't know the ins and outs of Agda. That's another thing that needs to be weighed over before implementing this syntax library-wide.

File: src/foundation/existential-quantification.lagda.md [hunk 3]
```diff
@@ -331,6 +331,24 @@ module _
...
+
+```agda
+module elim-exists-do
+  {l : Level}
+  (P : Prop l)
+  where
+
+  _>>=_ :
```
Comment (fredrik-bakke) [inline src/foundation/existential-quantification.lagda.md:345]: I can't see that this symbol, `>>=`, is used anywhere. Does it have some special meaning to the Agda interpreter? If so, is there a reference document somewhere I can read about this?

File: src/foundation/existential-quantification.lagda.md [hunk 4]
```diff
@@ -331,6 +331,24 @@ module _
     eq-distributive-product-exists-structure P
 ```
 
+## Existential quantification `do` syntax
+
+When eliminating a chain of existential quantifications, which may be
+interdependent, Agda's `do` syntax can eliminate many levels of nesting.
+
+```agda
+module elim-exists-do
```
Comment (fredrik-bakke) [inline src/foundation/existential-quantification.lagda.md:340]: I believe `do-syntax-elim-exists` is more in line with our naming conventions.

**Comment by fredrik-bakke** [comment]
If we're implementing this syntax for existential quantification, it would be really nice to also have it for propositional truncations and more generally all truncations (later, all localizations).

File: src/foundation/existential-quantification.lagda.md (hunk 3 above)
Comment (VojtechStep) [reply src/foundation/existential-quantification.lagda.md:345]: Do notation desugars to calls to whatever `_>>=_` is in scope https://agda.readthedocs.io/en/stable/language/syntactic-sugar.html#do-notation

Comment (fredrik-bakke) [reply src/foundation/existential-quantification.lagda.md:345]: Ah, then I probably broke a feature in our `reflection` namespace a while back. 😬 Thanks for the link!

Comment (lowasser) [reply src/foundation/existential-quantification.lagda.md:367]: Added a link to that page.

**Comment by VojtechStep** [comment]
> I expect there may be an issue with how goals display when fancy features like this are used.

I tested it with this code
```agda
data Maybe {l : Level} (A : UU l) : UU l where
  nothing : Maybe A
  just : A → Maybe A

elim-maybe : ∀ {l1 l2} {A : UU l1} {B : UU l2} → (A → Maybe B) → Maybe A → Maybe B
elim-maybe f nothing = nothing
elim-maybe f (just a) = f a

_>>=_ : ∀ {l1 l2} {A : UU l1} {B : UU l2} → Maybe A → (A → Maybe B) → Maybe B
a >>= f = elim-maybe f a

data Test : UU lzero where
  thing : Test

data Bool : UU lzero where true : Bool; false : Bool

not : Bool → Bool
not true = false
not false = true

guard : Bool → Maybe Test
guard true = just thing
guard false = nothing

thing1 : Bool → Maybe Test
thing1 b = do
  _ ← guard b
  _ ← guard (not b)
  just thing

open import foundation.identity-types
_ : ∀ b → thing1 b ＝ nothing
_ = {! thing1 !}
```
and neither simplifying nor normalizing `thing1` resulted in showing `do` notation (that is both `C-c C-n` to normalize `thing1` in the hole and `C-c C-,` and `C-u C-u C-c C-,` to normalize `thing1` in the goal). Instead I saw `_>>=_` inlined away and got the elimination application
```
Goal: (b : Bool) →
      Id
      (elim-maybe (λ _ → elim-maybe (λ _ → just thing) (guard (not b)))
       (guard b))
      nothing
```

I also tried it with the goal being in another file, and still could get Agda to show me either `do` or `_>>=_`. I'm not that surprised that `do` doesn't show up, since AFAIU that's just surface syntax and there's no reason why the pretty printer should reconstructed, but I'm happy to see `_>>=_` not show up.

As an aside, for the goal-in-another-file test I tried normalizing `asymmetric-le-ℝ`, but gave up after a few minutes. There's _a lot_ of hanging fruit for getting a speed-up by making definitions in `rational-numbers` abstract (e.g. I can reduce the term of `asymmetric-le-ℝ` instantly if I make `eq-ℚ-sim-fraction-ℤ` abstract).

**Comment by lowasser** [comment]
I have gradually been making more and more things abstract for rational numbers, I'll be sure to include that.

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 5]
```diff
@@ -90,28 +92,20 @@ module _
...
+        ( asymmetric-le-ℚ
+            ( q)
+            ( p)
+            ( le-lower-upper-cut-ℝ x q p q<x x<p))
+        ( not-leq-le-ℚ
+            ( p)
+            ( q)
+            ( le-lower-upper-cut-ℝ y p q p<y y<q))
+        ( decide-le-leq-ℚ p q)
+    where open do-syntax-elim-exists empty-Prop
```
Comment (EgbertRijke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: I don't know about this proposal. The code is surely shorter, but I find it very hard to read.

The benefit of having explicit `elim-exists` is that it tells you explicitly what the code is doing, and if you don't know what `elim-exists` is you can just jump to its definition. I feel like some information is lost here, and the code becomes less self-explanatory to an uninitiated person, which I have always felt is extremely important and I don't really want to loose that.

Comment (EgbertRijke) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: We have some `iterate-[operation]`'s in the library. I think an `iterate-elim-exists` would be a reasonable thing to have.

Comment (lowasser) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: I don't see an example of `iterate-` in the library at a glance that looks like it might be analogous.

I do want to claim that understanding this syntax is a constant overhead across the library, whereas understanding many-levels-nested `elim-exists` is pretty painful each time you do it.  My limited progress on multiplication suggests it will be far worse than addition; I would not be shocked by seven or eight nested elim-exists.  I won't have any room for indentation left over, and pulling out lemmas with 10+ arguments doesn't help much either.

As far as "jumping to definitions" is concerned, every use of `do` must be associated with a `where open do-syntax-elim-exists foo`, and `do-syntax-elim-exists` is something you can click on and jump to its definition.

In an attempt to explain a little better what this syntax does, let me have a go at its propositional truncation variant:

```agda
do
  a <- prop-a
  f a
```

is equivalent to `ind-trunc-Prop _ f prop-a`.  (The associated `where` and what goes in the `_` have to indicate what proposition is being satisfied -- though maybe you can get away with the `_`?)  All it does is reverse the argument order for `ind-trunc-Prop` and use a left arrow instead of a lambda with a right arrow.

Comment (lowasser) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: (Possibly relatedly, I find the `elim-exists` harder to read with its current argument order, as standard as it may be.  I would certainly find it easier to follow with its second and third arguments swapped.)

Comment (VojtechStep) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: > if you don't know what elim-exists is you can just jump to its definition

To add to Louis' answer (that you can go-to-definition on the `open do-syntax-elim-exists`), you can also go-to-definition on the `←`, both in an editor and on the website, which takes you to the appropriate definition of `_>>=_`.

> the code becomes less self-explanatory to an uninitiated person

There is always a trade-off between making the code understandable to someone not familiar with the language and actually using the language to help you. If I take this ad absurdum, we might as well avoid pattern matching and recursion, replacing them by explicit eliminators, or completely ban `with` matches; that is to say, I think the line is currently drawn pretty arbitrarily.

> it tells you explicitly what the code is doing [..] I feel like some information is lost here

IMO having more information visible doesn't necessarily mean the proof is easier to understand. Our library design style currently pushes towards sometimes unreasonably long names of definitions (because all identifiers are global), which require specifying more arguments than could be necessary (because we avoid records and instances), and lambdas always increase indentation level. By preferring nested lambdas to a more aligned structure, we create pyramids of doom (right drift of code), even though the reasoning is supposed to be linear. In any case, I don't see where the information is lost — here it's just moved to a less prominent position (the `open do-syntax-elim-exists Motive` is at the end), rather than being duplicated everywhere.

Comment (VojtechStep) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: For general truncations it should be a pretty straightforward application of [map-universal-property-trunc](https://unimath.github.io/agda-unimath/foundation.truncations.html#2876)

Comment (EgbertRijke) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: Thank you both for your further explanations, I thought about it for a bit more, and I do think that the `do` syntax is quite an improvement. I wish I understood it better, but I think you're making a very nice contribution to the library here.

As for my initial reservations, I still think that it is of the highest priority that the code in the library is understandable by the less-initiated. To that end, can you add a clear explanation of how one is supposed to read the `do` syntax? (almost at eli5 level, because I'm really not used to this syntax). What are all the arguments of the do syntax, and what do those arrows mean?

Comment (VojtechStep) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: @lowasser if you don't want to focus on the docs, I can take a crack at them tomorrow

Comment (EgbertRijke) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: Just for context, I've tried to understand the readthedocs page, but I find it terse, and not much of an explanation at all.

Comment (fredrik-bakke) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: I second Egbert's confusion with the `do` syntax

Comment (lowasser) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:108]: I can take care of the documentation work; documenting things like this is part of what I do professionally.

Comment (lowasser) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md]: I've taken a stab at it.  @VojtechStep , feel free to look at it and offer improvements if you like.

File: src/foundation/propositional-truncations.lagda.md [hunk 6]
```diff
@@ -446,6 +446,67 @@ module _
...
+showing `Q` requires having a value of `type-Prop P`:
+
+```text
+rec-trunc-Prop
+  ( motive)
+  ( λ q →
+    rec-trunc-Prop
+      ( motive)
+      ( λ q → derive-motive-from p q)
+      ( truncated-prop-Q p))
```
Comment (VojtechStep) [inline src/foundation/propositional-truncations.lagda.md:464]: I see some unfortunate conflating of a proposition and its witness. Could you rename `truncated-prop-X` to `witness-truncated-prop-X` and maybe `derive-motive-from p q` to `witness-motive-P-Q p q`?

File: src/foundation/propositional-truncations.lagda.md [hunk 7]
```diff
@@ -446,6 +446,67 @@ module _
...
+[Agda's `do` syntax](https://agda.readthedocs.io/en/v2.7.0/language/syntactic-sugar.html#do-notation)
+is a handy tool to avoid deeply nesting calls to the same lambda-based function.
+For example, consider a case where you are trying to prove a proposition,
+`motive : Prop l`, from a chain of truncated propositions `P` and `Q`, where
+showing `Q` requires having a value of `type-Prop P`:
+
+```text
+rec-trunc-Prop
+  ( motive)
+  ( λ q →
```
Comment (VojtechStep) [inline src/foundation/propositional-truncations.lagda.md:460]: To emphasize the type of `q` you could use a type annotated lambda `λ (p : P) →`

File: src/foundation/propositional-truncations.lagda.md [hunk 8]
```diff
@@ -446,6 +446,67 @@ module _
     is-equiv-map-inv-trunc-Prop-diagonal-coproduct
 ```
 
+## `do` syntax for propositional truncation
+
+[Agda's `do` syntax](https://agda.readthedocs.io/en/v2.7.0/language/syntactic-sugar.html#do-notation)
+is a handy tool to avoid deeply nesting calls to the same lambda-based function.
+For example, consider a case where you are trying to prove a proposition,
+`motive : Prop l`, from a chain of truncated propositions `P` and `Q`, where
```
[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/foundation/propositional-truncations.lagda.md:454]: I'd rephrase "from a chain of truncated propositions `P` and `Q`" as "from witnesses of propositional truncations of types `P` and `Q`", to avoid making it sound like `P` and `Q` are propositions

File: src/foundation/propositional-truncations.lagda.md [hunk 9]
```diff
@@ -446,6 +446,67 @@ module _
...
+do
+  p ← truncated-prop-P
+  q ← truncated-prop-Q p
+  derive-motive-from p q
+where open do-syntax-trunc-Prop motive
+```
+
+Going through each line:
+
+1. You can read the `p ← truncated-prop-P` as an _instruction_ saying, "Get the
```
Comment (VojtechStep) [inline src/foundation/propositional-truncations.lagda.md:495]: In this context it makes more sense to talk about "extracting the element of `P` out of the witness of `trunc-Prop P`"

File: src/foundation/propositional-truncations.lagda.md [hunk 10]
```diff
@@ -446,6 +446,67 @@ module _
...
+   value `p` out of its truncation `truncated-prop-Q`." We obviously cannot get
+   values out of truncations in general, but conceptually, we can do it in the
```
Comment (VojtechStep) [inline src/foundation/propositional-truncations.lagda.md:497]: I'd explicitly mention the universal property: "we cannot extract elements out of witnesses of propositionally truncated types, but since we're eliminating into a proposition, the universal property of the truncation allows us to lift a map from the untruncated type to a map from its truncation".

File: src/foundation/propositional-truncations.lagda.md [hunk 11]
```diff
@@ -446,6 +446,67 @@ module _
...
+   service of proving a proposition, and that's what we're doing here.
+2. `q ← truncated-prop-Q p` says, "Get the value `q` out of the truncation
+   `truncated-prop-Q p`" -- noticing that we can make use of `p` in that line.
```
Comment (VojtechStep) [inline src/foundation/propositional-truncations.lagda.md:500]: I'd drive home the point that `p` is an element by "we can make use of `p : P` in that line"

**Review by VojtechStep — CHANGES_REQUESTED** [review]
The documentation seems to me to be aimed more towards computer scientists than mathematicians. Could you include an example of a step by step desugaring of the surface syntax? The Agda docs apparently aren't a sufficient explanation, according to https://github.com/UniMath/agda-unimath/pull/1306#discussion_r1953393190, and I agree that it's not immediately visible how their examples relate to truncations.

**Comment by lowasser** [comment]
I've given this a go.  I will certainly admit that the errors here reflect my own limited familiarity and hesitant understanding of univalent type theory, I'm afraid.

File: src/foundation/propositional-truncations.lagda.md [hunk 12]
```diff
@@ -446,6 +446,84 @@ module _
...
+
+```text
+do
+  p ← witness-truncated-prop-P
+  q ← witness-truncated-prop-Q p
+  witness-motive-P-Q p q
+where open do-syntax-trunc-Prop motive
+```
+
+Since Agda's `do` syntax desugars to calls to `>>=`, this is simply syntactic
```
Comment (VojtechStep) [inline src/foundation/propositional-truncations.lagda.md:493]: We try to avoid using words like "simply", "just", "easily", ...

File: src/foundation/propositional-truncations.lagda.md [hunk 13]
```diff
@@ -446,6 +446,84 @@ module _
...
+  ( λ p → witness-truncated-prop-Q p >>=
+    ( λ q → witness-motive-P-Q p q))
+```
+
+which, inlining the definition of `>>=`, becomes exactly the chain of
+`rec-trunc-Prop` used above.
+
+To read the `do` syntax, it may help to go through each line:
+
+1. `do` simply indicates that we will be using Agda's syntactic sugar for the
```
Comment (VojtechStep) [inline src/foundation/propositional-truncations.lagda.md:507]: Same here with "simply"

File: src/foundation/propositional-truncations.lagda.md [hunk 14]
```diff
@@ -446,6 +446,84 @@ module _
...
+   `>>=` function defined in the `do-syntax-trunc-Prop` module.
+1. You can read the `p ← witness-truncated-prop-P` as an _instruction_ saying,
+   "Get the value `p` out of the witness of `trunc-Prop P`." We cannot extract
+   elements out of witnesses of propositionally truncated types, but since we're
+   eliminating into a proposition, the universal property of the truncation
+   allows us to lift a map from the untruncated type to a map from its
```
Comment (VojtechStep) [inline src/foundation/propositional-truncations.lagda.md:513]: On second reading "map from" doesn't sound natural here, maybe "map out of"? I'd defer to a native speaker

File: src/foundation/propositional-truncations.lagda.md [hunk 15]
```diff
@@ -446,6 +446,84 @@ module _
...
+   truncation.
+1. `q ← witness-truncated-prop-Q p` says, "Get the value `q` out of the witness
+   for the truncation `witness-truncated-prop-Q p`" -- noticing that we can make
```
Comment (VojtechStep) [inline src/foundation/propositional-truncations.lagda.md:516]: We use `---` for em-dashes

**Review by VojtechStep — COMMENTED** [review]
Up to some nitpicks this LGTM. @EgbertRijke @fredrik-bakke can you parse the application of `do` notation better with this documentation?

File: src/foundation/propositional-truncations.lagda.md (hunk 14 above)
Comment (lowasser) [reply src/foundation/propositional-truncations.lagda.md:513]: I am a native speaker and do think this is probably the best way to put it, but I'm happy to change it if you feel strongly.

**Review by VojtechStep — APPROVED** [review]

File: src/foundation/existential-quantification.lagda.md [hunk 16]
```diff
@@ -202,6 +202,11 @@ module _
         ( elim-exists Q)
 ```
 
+Note that since existential quantification is implemented using propositional
+truncation, the associated
+[do syntax](foundation.propositional-truncations.md#do-syntax) can be used to
```
Comment (fredrik-bakke) [inline src/foundation/existential-quantification.lagda.md:207]:
```suggestion
[`do` syntax](foundation.propositional-truncations.md#do-syntax) can be used to
```

File: src/foundation/propositional-truncations.lagda.md [hunk 17]
```diff
@@ -446,6 +446,83 @@ module _
...
+      ( λ (q : Q) → witness-motive-P-Q p q)
+      ( witness-truncated-prop-Q p))
+  ( witness-truncated-prop-P)
+```
+
+The tower of indentation, with many layers of indentation in the innermost
+derivation, is a little awkward even at two levels, let alone more. In
+particular, we have the many duplicated lines of `rec-trunc-Prop motive`, and
+the increasing distance between the `rec-trunc-Prop` and the `trunc-Prop` being
+recursed on. Agda's `do` syntax offers us an alternative.
```
Comment (fredrik-bakke) [inline src/foundation/propositional-truncations.lagda.md:472]: I don't think this is the best way to phrase the use case for `do` syntax. Rather than phrasing it as mitigating something _bad_ such as the pattern above, which I'm not convinced yet is inherently bad, I would prefer if it was phrased purely as a useful tool for abstraction into the "language of propositional truncations".

File: src/foundation/propositional-truncations.lagda.md [hunk 18]
```diff
@@ -446,6 +446,83 @@ module _
...
+
+```text
+do
+  p ← witness-truncated-prop-P
+  q ← witness-truncated-prop-Q p
+  witness-motive-P-Q p q
+where open do-syntax-trunc-Prop motive
+```
+
+Since Agda's `do` syntax desugars to calls to `>>=`, this is syntactic sugar for
```
Comment (fredrik-bakke) [inline src/foundation/propositional-truncations.lagda.md:493]: "Desugaring". "syntactic sugar", "inlining", and "internal (representation)" are computer science terms that we probably shouldn't expect the reader to know. Could you try and give a more mathematical explanation of what is going on? I.e., it is a syntax for reasoning in a certain mode of logic, and that unfolds to some primitive thing that we mathematically already understand.

Comment (fredrik-bakke) [reply src/foundation/propositional-truncations.lagda.md:493]: If I'm being a little unclear let me know, I can try and suggest a rephrasing.

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 19]
```diff
@@ -85,28 +88,20 @@ module _
...
-                  ( p)
-                  ( q)
-                  ( le-lower-upper-cut-ℝ y p q p-in-ly q-in-uy)
-                  ( q≤p))
-              ( decide-le-leq-ℚ p q))
-          ( y<x))
-      ( x<y)
+    do
+      p , x<p , p<y ← x<y
+      q , y<q , q<x ← y<x
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:93]:
```suggestion
      ( p , x<p , p<y) ← x<y
      ( q , y<q , q<x) ← y<x
```

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 20]
```diff
@@ -120,23 +115,15 @@ module _
...
-                  ( z)
-                  ( p)
-                  ( q)
-                  ( le-lower-upper-cut-ℝ y p q p-in-ly q-in-uy)
-                  ( q-in-lz)))
-          ( y<z))
+  transitive-le-ℝ y<z x<y =
+    do
+      p , x<p , p<y ← x<y
+      q , y<q , q<z ← y<z
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:121]:
```suggestion
      ( p , x<p , p<y) ← x<y
      ( q , y<q , q<z) ← y<z
```

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 21]
```diff
@@ -239,14 +205,14 @@ module _
...
-    elim-exists
-      ( le-ℝ-Prop (neg-ℝ y) (neg-ℝ x))
-      ( λ p (p-in-ux , p-in-ly) →
-        intro-exists
-          ( neg-ℚ p)
-          ( tr (is-in-lower-cut-ℝ y) (inv (neg-neg-ℚ p)) p-in-ly ,
-            tr (is-in-upper-cut-ℝ x) (inv (neg-neg-ℚ p)) p-in-ux))
+  reverses-order-neg-ℝ x<y =
+    do
+      p , x<p , p<y ← x<y
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:210]:
```suggestion
      ( p , x<p , p<y) ← x<y
```

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 22]
```diff
@@ -359,17 +325,18 @@ module _
...
-          ( λ _ _ → real-ℚ q)
-          ( λ p r (p<q , p∈ux) (q<r , r∈ly) →
-            intro-exists p (p∈ux , p<q) , intro-exists r (q<r , r∈ly))
-          ( forward-implication (is-rounded-upper-cut-ℝ x q) q∈ux)
-          ( forward-implication (is-rounded-lower-cut-ℝ y q) q∈ly))
+  dense-le-ℝ x<y =
+    do
+      q , x<q , q<y ← x<y
+      p , p<q , x<p ← forward-implication (is-rounded-upper-cut-ℝ x q) x<q
+      r , q<r , r<y ← forward-implication (is-rounded-lower-cut-ℝ y q) q<y
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:332]:
```suggestion
      ( q , x<q , q<y) ← x<y
      ( p , p<q , x<p) ← forward-implication (is-rounded-upper-cut-ℝ x q) x<q
      ( r , q<r , r<y) ← forward-implication (is-rounded-lower-cut-ℝ y q) q<y
```

**Comment by fredrik-bakke** [comment]
The documentation reads as very computer sciency to me. Keep in mind that the intended audience should include mathematically curious high-schoolers.

File: src/foundation/propositional-truncations.lagda.md (hunk 18 above)
Comment (VojtechStep) [reply src/foundation/propositional-truncations.lagda.md:493]: The combination of "we shouldn't expect the reader to know what syntactic sugar is" and "we expect the reader to know what a certain mode of logic is" brings to mind the [Average familiarity xkcd](https://xkcd.com/2501/).

I think we'll need to meet somewhere in the middle on this one. I still see this addition as an ergonomics improvement to the usage of Agda-qua-language, so the programming language vocabulary sounds justified. If the docs were stated in terms of e.g. "working in a fragment of logic where we may directly observe witnesses of propositionally truncated types", then I don't think I'd come out of reading it any wiser. Perhaps we should have both explanations?

Comment (VojtechStep) [reply src/foundation/propositional-truncations.lagda.md:493]: Sorry, that was strawman-ish of me. But then I'm not sure what the more mathematical explanation would look like?

**Comment by lowasser** [comment]
I have to admit that I'm not sure how to make this documentation more mathematically framed, and would appreciate help getting it the rest of the way to what you're hoping for.

**Comment by fredrik-bakke** [comment]
@EgbertRijke @VojtechStep

It seems that @lowasser's work is blocked on this PR right now. I'd like to review the documentation properly before it is merged and don't have the time right now. Since it seems we agree on the implementation of the syntax itself, perhaps we could merge this PR without the documentation, and leave that for a second PR so that Louis can continue his work?

**Comment by VojtechStep** [comment]
In this case I'd prefer a CS documentation useful to some contributors over no documentation, but I won't block the PR on a decision about that, any way of merging it is fine with me.

**Comment by fredrik-bakke** [comment]
I'd prefer it if we didn't rush the documentation.

**Comment by lowasser** [comment]
I am disinclined to eliminate the before-and-after example even temporarily, but I've attempted to cut everything else in the hopes we can get this in.

**Comment by fredrik-bakke** [comment]
Okay, I'm merging this so that Louis can continue his work. We can discuss the documentation in further detail or potential alternatives and reverts in a follow-up. Would you be so kind as to open a follow-up draft PR with the documentation, @lowasser?
